US08748443B2
Part A. Preparation of (E)-1-((3-bromo-4-methoxy-5-(5-methylfuran-2-yl)phenyl)diazenyl)pyrrolidine
1-((3-Bromo-5-iodo-4-methoxyphenyl)diazenyl)pyrrolidine (0.15 g, 0.366 mmol) and 4,4,5,5-tetramethyl-2-(5-methylfuran-2-yl)-1,3,2-dioxaborolane (0.076 g, 0.366 mmol), were reacted in the same manner as Example 1 Part B for 18 hours to give crude product which was purified on an Isco 12 g silica cartridge eluting with ethyl acetate/hexane (0% to 25%) to give the title compound.

reactant | 1-((3-Bromo-5-iodo-4-methoxyphenyl)diazenyl)pyrrolidine | 0.366 mmol, 0.15 g | BrC=1C=C(C=C(C1OC)I)N=NN1CCCC1 | C11H13BrIN3O
reactant | 4,4,5,5-tetramethyl-2-(5-methylfuran-2-yl)-1,3,2-dioxaborolane | 0.366 mmol, 0.076 g | CC1(OB(OC1(C)C)C=1OC(=CC1)C)C | C11H17BO3
product | (E)-1-((3-bromo-4-methoxy-5-(5-methylfuran-2-yl)phenyl)diazenyl)pyrrolidine | BrC=1C=C(C=C(C1OC)C=1OC(=CC1)C)/N=N/N1CCCC1 | C16H18BrN3O2
